US04198424
(R*,S*)-acetic acid-[1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethyl]-ester
3,5 g of (R*,S*)-1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethanol and 40 ml of acetic acid anhydride are stirred for 15 minutes at room temperature. 6 N sodium hydroxide solution is added with cooling up to a pH of 8-9. The mixture is extracted with diethyl ether, and the organic layer is concentrated to the oily title compound. The hydrochloride (from methanol/diethyl ether) melts at 155°-157°.

reactant | (R*,S*)-1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethanol | 3,5 g | COC=1C=C(C=CC1)[C@@H](C[C@H]1N(CCC1)C)O | C14H21NO2
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | acetic acid anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (R*,S*)-acetic acid-[1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)-ethyl]-ester | COC=1C=C(C=CC1)[C@@H](C[C@H]1N(CCC1)C)OC(C)=O | C16H23NO3
